US07176242B2
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(5-methyl-1,2,4-oxadiazol-3-yl)-N3,N3-dipropylisophthalamide Hydrochloride
A solution of 3-[(dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid (209 mg, 0.63 mmol), HATU (359 mg, 0.95 mmol), HOBt (128 mg, 0.95 mmol), and diisopropylethylamine (165 μL, 0.95 mmol) is stirred in methylene chloride (2.0 mL) for 15 min. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (257 mg, 0.63 mmol) and diisopropylethylamine (165 μL, 0.95 mmol) in methylene chloride (2.0 mL) is added and the reaction mixture is stirred overnight. The reaction mixture is diluted with methylene chloride, washed with 1 N hydrochloric acid (25 mL), saturated sodium bicarbonate (25 mL), and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provides the title compound as the free base. The solid is dissolved in methanol (1 mL), and treated with hydrochloric acid (0.3 mL of a 1.0 M solution in diethyl ether, 0.3 mmol). The resulting precipitate is collected by filtration to provide the title compound. APCI MS m/z 648.4 [M+H]+.

reactant | 3-[(dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid | 0.63 mmol, 209 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C1=NOC(=N1)C)CCC | C17H21N3O4
reactant | HATU | 0.95 mmol, 359 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.95 mmol, 128 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.95 mmol, 165 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | diisopropylethylamine | 0.95 mmol, 165 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-(5-methyl-1,2,4-oxadiazol-3-yl)-N3,N3-dipropylisophthalamide Hydrochloride | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C2=NOC(=N2)C)=O)C=C(C1)F | InChI=1S/C36H43F2N5O4.ClH/c1-5-11-43(12-6-2)36(46)29-18-27(34-40-23(4)47-42-34)17-28(19-29)35(45)41-32(16-26-14-30(37)20-31(38)15-26)33(44)22-39-21-25-10-8-9-24(7-3)13-25;/h8-10,13-15,17-20,32-33,39,44H,5-7,11-12,16,21-22H2,1-4H3,(H,41,45);1H/t32-,33+;/m0./s1
